US07569337B2
3-Benzothiazol-2-yl-7-[(2-fluoro-ethyl)-methyl-amino]-chromen-2-one
130 mg (ca. 0.65 mmol) crude 4-[(2-Fluoro-ethyl)-methyl-amino]-2-hydroxy-benzaldehyde and 202 mg (1.5 eq.) benzothiazol-2-yl-acetic acid methyl ester are dissolved in 3 mL acetonitrile and 6 mL benzene, treated with 0.14 mL (2 eq.) piperidine and heated to reflux for 45 minutes. After cooling to room temperature, the crude product is extracted with AcOEt/isopropanol 9:1 and saline, dried over sodium sulfate and evaporated. The crude product is dissolved in 20 mL methanol, and slowly concentrated down to 10 mL at 50° C. The orange crystals are filtered and dried under high vacuum to yield 110 mg (48%) desired product.

reactant | 4-[(2-Fluoro-ethyl)-methyl-amino]-2-hydroxy-benzaldehyde | ca. 0.65 mmol, 130 mg | FCCN(C1=CC(=C(C=O)C=C1)O)C | C10H12FNO2
reactant | benzothiazol-2-yl-acetic acid methyl ester | 202 mg, 1.5 eq. | COC(CC=1SC2=C(N1)C=CC=C2)=O | C10H9NO2S
reactant | piperidine | 0.14 mL, 2 eq. | N1CCCCC1 | C5H11N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
product | 3-Benzothiazol-2-yl-7-[(2-fluoro-ethyl)-methyl-amino]-chromen-2-one | 110 mg, 48% | S1C(=NC2=C1C=CC=C2)C=2C(OC1=CC(=CC=C1C2)N(C)CCF)=O | C19H15FN2O2S
